US06184236B2
A mixture of 3-phenyl propionic acid (360 mg, 2.4 mmol), CDI (410 mg, 2.5 mmol) and DMF (20 ml) was stirred at 50° for 1 h. After cooling to 0°, 1-(4-methoxy-phenyl)-piperidin-4-ylamine (500 mg, 2.4 mmol) was added and stirring continued for 1 h. After the addition of H2O (60 ml) the white precipitate was collected to give N-[1-(4-methoxy-phenyl)-piperidin-4-yl]-3-phenyl-propionamide (618 mg, 76%, MS: m/e=339.3 (M+H+)).

reactant | 3-phenyl propionic acid | 2.4 mmol, 360 mg | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | CDI | 2.5 mmol, 410 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | 1-(4-methoxy-phenyl)-piperidin-4-ylamine | 2.4 mmol, 500 mg | COC1=CC=C(C=C1)N1CCC(CC1)N | C12H18N2O
solvent | H2O | 60 ml | O | H2O
product | N-[1-(4-methoxy-phenyl)-piperidin-4-yl]-3-phenyl-propionamide | 618 mg, 76% | COC1=CC=C(C=C1)N1CCC(CC1)NC(CCC1=CC=CC=C1)=O | C21H26N2O2
